US05652239
a. 2,2'-Dichlorohydrazobenzene
To a stirred solution of 50% NaOH (1 mL, 12.5 mM) was added 2-chloronitrobenzene (3.14 g, 20 mM) and the resulting solution was heated to 60° C. Zinc dust (3 g, 46 mM) was added at such a rate as to keep the temperature of the reaction below 80° C. After the addition was complete, 20% NaOH (6 mL, 30 mM) was added followed by water (10 mL). An additional quantity of zinc dust (4 g, 71 mM) was then added in one portion. The resulting mixture was stirred between 75°-80° C. for 30 minutes. The mixture was cooled to room temperature and the solids were filtered and extracted with ether. The combined filtrates were dried over Na2SO4 and concentrated. Purification via flash column chromatography gave a solid which was then triturated with ether. This afforded the titled product as a yellow solid (1.2 g, 60%). NMR (CDCl3): 7.31 (m, 2H), 7.11 (m, 2H), 6.94 (m, 2H), 6.76 (m, 2H), 6.21 (br s, 2H). MS(CI): 253(M+1).

reactant | NaOH | 12.5 mM, 1 mL | [OH-].[Na+]
reactant | 2-chloronitrobenzene | 20 mM, 3.14 g | ClC1=C(C=CC=C1)[N+](=O)[O-] | C6H4ClNO2
reactant | NaOH | 30 mM, 6 mL | [OH-].[Na+]
catalyst | Zinc | 46 mM, 3 g | [Zn] | Zn
catalyst | zinc | 71 mM, 4 g | [Zn] | Zn
solvent | water | 10 mL | O | H2O
product | 2,2'-Dichlorohydrazobenzene | 1.2 g, 60% | ClN(NC1=CC=CC=C1)C1=C(C=CC=C1)Cl | C12H10Cl2N2
